US07618960B2
Synthesis of (R)-1-(2-chloropyridin-4-yl)ethanol
A solution of 1-(2-chloropyridin-4-yl)ethanone (7.18 g) in tetrahydrofuran (10 mL) was added dropwise to a solution of (+)-DIP-chloride (19.2 g) in tetrahydrofuran (340 mL) at −20° C., and the reaction solution was stirred at the same temperature overnight. The reaction solution was returned to room temperature, and the solvent was evaporated under reduced pressure. The residue was diluted with an ether, diethanolamine (12.1 g) was added to the diluent, and the reaction solution was stirred at room temperature for four hours. The insoluble matter was separated by filtration through celite, and the mother liquor was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex, elution solvent: heptane-ethyl acetate) to obtain the title compound (3.84 g). The property values of the compound are as follows.

reactant | 1-(2-chloropyridin-4-yl)ethanone | 7.18 g | ClC1=NC=CC(=C1)C(C)=O | C7H6ClNO
reactant | (+)-DIP-chloride | 19.2 g | B([C@H]1C[C@@H]2C[C@H]([C@@H]1C)C2(C)C)([C@H]3C[C@@H]4C[C@H]([C@@H]3C)C4(C)C)Cl | C20H34BCl
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 340 mL | O1CCCC1 | C4H8O
product | (R)-1-(2-chloropyridin-4-yl)ethanol | 3.84 g | ClC1=NC=CC(=C1)[C@@H](C)O | C7H8ClNO
